US07576215B2
3-BENZYL-4-{3-[1-(2,5-DICHLOROPHENYL)ETHOXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLINE
This compound was prepared according to the procedure of example 69, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenol and 1-(2,5-dichloro-phenyl) ethanol. MS (ESI) m/z 553.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | 1-(2,5-dichloro-phenyl) ethanol | ClC1=C(C=C(C=C1)Cl)C(C)O | C8H8Cl2O
product | 3-BENZYL-4-{3-[1-(2,5-DICHLOROPHENYL)ETHOXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OC(C)C1=C(C=CC(=C1)Cl)Cl)C(F)(F)F | C31H22Cl2F3NO
